### PR TITLE
[Merged by Bors] - feat(NumberTheory/AbelSummation): relax some hypothesis

### PR DESCRIPTION
**Pull request by xroblot**
Replace `IntegrableOn` by the weaker `LocallyIntegrableOn` at several places.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/AbelSummation.lean [hunk 1]
```diff
@@ -282,12 +283,12 @@ theorem tendsto_sum_mul_atTop_nhds_one_sub_integral₀ (hc : c 0 = 0)
   have h_lim' : Tendsto (fun n : ℕ ↦ ∫ t in Set.Ioc (1 : ℝ) n, deriv f t * ∑ k ∈ Icc 0 ⌊t⌋₊, c k)
       atTop (𝓝 (∫ t in Set.Ioi 1, deriv f t * ∑ k ∈ Icc 0 ⌊t⌋₊, c k)) := by
     refine Tendsto.congr' h (intervalIntegral_tendsto_integral_Ioi _ ?_ tendsto_natCast_atTop_atTop)
-    exact integrableOn_Ici_iff_integrableOn_Ioi.mp
+    refine integrableOn_Ici_iff_integrableOn_Ioi.mp
```
Comment (grunweg) [inline Mathlib/NumberTheory/AbelSummation.lean:286]: Why this change?

**Review by grunweg — COMMENTED** [review]
Sure, why not? Thanks!
maintainer delegate

File: Mathlib/NumberTheory/AbelSummation.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/NumberTheory/AbelSummation.lean:286]: Good question. Probably an oversight. Thanks!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
